US07034042B2
A solution of (R)-2-benzyloxycarbonylamino-3-.tert.-butoxycarbonylamino-propionic acid (0.5 g, 1.47 mmol) in dry THF (5 ml) cooled to 0° C. is treated with N-methylmorpholine (0.16 ml, 1.47 mmol) and isobutylchloroformate (0.2 ml, 1.47 mmol). The reaction mixture is stirred at 0° C. for 15 minutes then added to a vigorously stirred suspension of sodium borohydride (0.16 g, 4.41 mmol) in dry tetrahydrofuran (5 ml) at 0° C. The reaction mixture is stirred for a further 2 hours, then quenched with water. The THF is evaporated and the remaining aqueous solution extracted into ethylacetate. The ethylacetate is washed with brine, dried over MgSO4 and evaporated to dryness. The crude product is purified by flash silica chromatography (elution with hexane:ethylacetate, 1:1) to afford [(R)-1-(tert-butoxycarbonylamino-methyl)-2-hydroxy-ethyl]-carbamic acid benzyl ester. [MH]+ 325.1

reactant | tert.-butoxycarbonylamino-propionic acid | 1.47 mmol, 0.5 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C | C8H15NO4
reactant | N-methylmorpholine | 1.47 mmol, 0.16 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 1.47 mmol, 0.2 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | sodium borohydride | 4.41 mmol, 0.16 g | [BH4-].[Na+]
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | [(R)-1-(tert-butoxycarbonylamino-methyl)-2-hydroxy-ethyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@@H](CO)CNC(=O)OC(C)(C)C)=O | C16H24N2O5
